US20010056212A1
In a 500-mL autoclave, charged were 70 g (0.76 mol) of glycerin, 0.7 g (2.3 mmol) of bis(acetylacetonato)palladium (II), 3.0 g (5.3 mmol) of triphenylphosphine-3,3′,3″-trisulfonic acid trisodium salt and 35 g of water. The mixture was heated to 80° C., whereby a water-soluble liquid phase was obtained. After cooling, 180 g (3.3 mol) of 1,3-butadiene was introduced at a time into the autoclave as a hydrocarbon solvent phase. While stirring, the mixture was heated to 80° C. again. The initial pressure in the autoclave showed 1.0 MPa. After stirring at 80° C. for 10 hours, the water phase and unreacted butadiene were removed, followed by washing with water, whereby 111 g of octadienyl glyceryl ether was obtained as a pale yellow transparent oil.

reactant | glycerin | 0.76 mol, 70 g | OCC(O)CO | C3H8O3
reactant | 1,3-butadiene | 3.3 mol, 180 g | C=CC=C | C4H6
catalyst | bis(acetylacetonato)palladium | 2.3 mmol, 0.7 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pd+2]
catalyst | triphenylphosphine-3,3′,3″-trisulfonic acid trisodium salt | 5.3 mmol, 3.0 g | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
solvent | water | O | H2O
solvent | water | 35 g | O | H2O
product | octadienyl glyceryl ether | 111 g | C(C(O)CO)OC=CC=CCCCC | C11H20O3
